US07091228B2
2,2-Dimethyl-4-oxo-4-[4′-(1,3-thiazol-2-ylamino)-1,1′-biphenyl-4-yl]butanoic acid
This compound was prepared from methyl 4-(4′-amino-1,1′-biphenyl-4-yl)-2,2-dimethyl-4-oxobutanoate (64 mg, 0.21 mmol) and 2-bromothiazole (41 mg, 0.25 mmol) in a similar manner to the method described for 4-[4′-(1,3-benzothiazol-2-ylamino)-1,1′-biphenyl-4-yl]-2,2-dimethyl-4-oxobutanoic acid, providing 18.6 mg (24%) of the desired product. LC-MS m/z 381.4 (MH+), ret. time 2.53 min.

reactant | methyl 4-(4′-amino-1,1′-biphenyl-4-yl)-2,2-dimethyl-4-oxobutanoate | 0.21 mmol, 64 mg | NC1=CC=C(C=C1)C1=CC=C(C=C1)C(CC(C(=O)OC)(C)C)=O | C19H21NO3
reactant | 2-bromothiazole | 0.25 mmol, 41 mg | BrC=1SC=CN1 | C3H2BrNS
reactant | 4-[4′-(1,3-benzothiazol-2-ylamino)-1,1′-biphenyl-4-yl]-2,2-dimethyl-4-oxobutanoic acid | S1C(=NC2=C1C=CC=C2)NC2=CC=C(C=C2)C2=CC=C(C=C2)C(CC(C(=O)O)(C)C)=O | C25H22N2O3S
product | 2,2-Dimethyl-4-oxo-4-[4′-(1,3-thiazol-2-ylamino)-1,1′-biphenyl-4-yl]butanoic acid | 18.6 mg, 24% | CC(C(=O)O)(CC(C1=CC=C(C=C1)C1=CC=C(C=C1)NC=1SC=CN1)=O)C | C21H20N2O3S
